### PR TITLE
feat(ErdosProblems): 1148

### LINKED ISSUE #1937: Erdős Problem 1148
### What is the conjecture
[https://www.erdosproblems.com/1148](https://www.erdosproblems.com/1148)

Can every large integer $n$ be written as $n=x^2+y^2-z^2$ with $\max(x^2,y^2,z^2)\leq n$?

Status: open

### Choose either option
- [x] I plan on adding this conjecture to the repository
- [ ] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by danielchin**
fixes #1937

Formalizes Erdos Problem 1148: https://www.erdosproblems.com/1148

### CODE REVIEW

File: FormalConjectures/ErdosProblems/1148.lean [hunk 1]
```diff
@@ -0,0 +1,68 @@
...
+Can every large integer $n$ be written as $n=x^2+y^2-z^2$ with $\max(x^2,y^2,z^2)\leq n$?
+-/
+@[category research open, AMS 11]
+theorem erdos_1148 : ∀ᶠ n in atTop, erdos_1148_prop n := by
+  sorry
+
+/--
+The largest integer known which cannot be written this way is $6563$.
+-/
+@[category research solved, AMS 11]
```
Comment (felixpernegger) [inline FormalConjectures/ErdosProblems/1148.lean]:
```suggestion
@[category high_school, AMS 11]
```
Since its only computation

File: FormalConjectures/ErdosProblems/1148.lean [hunk 2]
```diff
@@ -0,0 +1,68 @@
...
+  sorry
+
+/--
+The weaker property: $n = x^2 + y^2 - z^2$ such that $\max(x^2, y^2, z^2) \leq n + 2\sqrt{n}$.
+-/
+def erdos_1148_weaker_prop (n : ℕ) : Prop :=
+  ∃ x y z : ℕ, n + z ^ 2 = x ^ 2 + y ^ 2 ∧
+  (x ^ 2 : ℝ) ≤ n + 2 * Real.sqrt n ∧
+  (y ^ 2 : ℝ) ≤ n + 2 * Real.sqrt n ∧
+  (z ^ 2 : ℝ) ≤ n + 2 * Real.sqrt n
```
Comment (felixpernegger) [inline FormalConjectures/ErdosProblems/1148.lean]:
```suggestion
def erdos_1148_weaker_prop (n : ℕ) : Prop :=
  ∃ x y z : ℕ, n = x ^ 2 + y ^ 2 - z ^ 2 ∧
    (x ^ 2 : ℝ) ≤ n + 2 * Real.sqrt n ∧
    (y ^ 2 : ℝ) ≤ n + 2 * Real.sqrt n ∧
    (z ^ 2 : ℝ) ≤ n + 2 * Real.sqrt n
```

File: FormalConjectures/ErdosProblems/1148.lean [hunk 3]
```diff
@@ -0,0 +1,68 @@
...
+
+open Filter
+
+namespace Erdos1148
+
+/--
+This property represents for a number $n$ if $n = x^2 + y^2 - z^2$ with $\max(x^2, y^2, z^2) \leq n$.
+-/
+def erdos_1148_prop (n : ℕ) : Prop :=
+  ∃ x y z : ℕ, n + z ^ 2 = x ^ 2 + y ^ 2 ∧ x ^ 2 ≤ n ∧ y ^ 2 ≤ n ∧ z ^ 2 ≤ n
```
Comment (felixpernegger) [inline FormalConjectures/ErdosProblems/1148.lean]:
```suggestion
  ∃ x y z : ℕ, n = x ^ 2 + y ^ 2 - z ^ 2 ∧ x ^ 2 ≤ n ∧ y ^ 2 ≤ n ∧ z ^ 2 ≤ n
```
This looks prettier I think? Natural number subtraction being bad doesnt matter here. But either way is fine.

File: FormalConjectures/ErdosProblems/1148.lean [hunk 4]
```diff
@@ -0,0 +1,68 @@
...
+- [Va99] Various, Some of Paul's favorite problems. Booklet produced for the conference "Paul Erdős
+  and his mathematics", Budapest, July 1999 (1999).
+-/
+
+open Filter
+
+namespace Erdos1148
+
+/--
+This property represents for a number $n$ if $n = x^2 + y^2 - z^2$ with $\max(x^2, y^2, z^2) \leq n$.
```
Comment (felixpernegger) [inline FormalConjectures/ErdosProblems/1148.lean]:
```suggestion
A natural number $n$ which can be written as $n = x^2 + y^2 - z^2$ with $\max(x^2, y^2, z^2) \leq n$.
```
better grammar

File: FormalConjectures/ErdosProblems/1148.lean [hunk 5]
```diff
@@ -0,0 +1,68 @@
...
+
+/--
+Can every large integer $n$ be written as $n=x^2+y^2-z^2$ with $\max(x^2,y^2,z^2)\leq n$?
+-/
+@[category research open, AMS 11]
+theorem erdos_1148 : ∀ᶠ n in atTop, erdos_1148_prop n := by
+  sorry
+
+/--
+The largest integer known which cannot be written this way is $6563$.
```
Comment (felixpernegger) [inline FormalConjectures/ErdosProblems/1148.lean:47]: Maybe make include a stronger variant of the problem saying that 6563 is the largest such number?

**Review by felixpernegger — COMMENTED** [review]
nice

File: FormalConjectures/ErdosProblems/1148.lean [hunk 6]
```diff
@@ -0,0 +1,68 @@
...
+  (x ^ 2 : ℝ) ≤ n + 2 * Real.sqrt n ∧
+  (y ^ 2 : ℝ) ≤ n + 2 * Real.sqrt n ∧
+  (z ^ 2 : ℝ) ≤ n + 2 * Real.sqrt n
+
+/--
+[Va99] reports this is 'obvious' if we replace $\leq n$ with $\leq n+2\sqrt{n}$.
+-/
+@[category research solved, AMS 11]
+theorem erdos_1148.variants.weaker : ∀ᶠ n in atTop, erdos_1148_weaker_prop n := by
+  sorry
```
Comment (felixpernegger) [inline FormalConjectures/ErdosProblems/1148.lean:67]: Looking at the proof in the comments, its seems like this holds for all $n$?

File: FormalConjectures/ErdosProblems/1148.lean (hunk 5 above)
Comment (felixpernegger) [reply FormalConjectures/ErdosProblems/1148.lean:47]: I tested this in python and this is certainly the case for $n \leq 100000$

File: FormalConjectures/ErdosProblems/1148.lean (hunk 1 above)
Comment (danielchin) [reply FormalConjectures/ErdosProblems/1148.lean]: Done.

File: FormalConjectures/ErdosProblems/1148.lean (hunk 4 above)
Comment (danielchin) [reply FormalConjectures/ErdosProblems/1148.lean]: Done.

File: FormalConjectures/ErdosProblems/1148.lean (hunk 6 above)
Comment (danielchin) [reply FormalConjectures/ErdosProblems/1148.lean:67]: Agree, edited this to apply for all $n$.

File: FormalConjectures/ErdosProblems/1148.lean (hunk 5 above)
Comment (danielchin) [reply FormalConjectures/ErdosProblems/1148.lean:47]: Leaving this as is. This was meant to primarily act as a test to show 6563 can't be written in this way.

File: FormalConjectures/ErdosProblems/1148.lean (hunk 3 above)
Comment (danielchin) [reply FormalConjectures/ErdosProblems/1148.lean]: Done.

File: FormalConjectures/ErdosProblems/1148.lean (hunk 2 above)
Comment (danielchin) [reply FormalConjectures/ErdosProblems/1148.lean]: Done.

File: FormalConjectures/ErdosProblems/1148.lean [hunk 7]
```diff
@@ -0,0 +1,69 @@
...
+-/
+@[category research open, AMS 11]
+theorem erdos_1148 : ∀ᶠ n in atTop, erdos_1148_prop n := by
+  sorry
+
+/--
+The largest integer known which cannot be written this way is $6563$.
+-/
+@[category high_school, AMS 11]
+theorem erdos_1148.lower_bound : ¬ erdos_1148_prop 6563 := by
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1148.lean]:
```suggestion
def Erdos1148Prop (n : ℕ) : Prop :=
  ∃ x y z : ℕ, n = x ^ 2 + y ^ 2 - z ^ 2 ∧ x ^ 2 ≤ n ∧ y ^ 2 ≤ n ∧ z ^ 2 ≤ n

/--
Can every large integer $n$ be written as $n=x^2+y^2-z^2$ with $\max(x^2,y^2,z^2)\leq n$?
-/
@[category research open, AMS 11]
theorem erdos_1148 : ∀ᶠ n in atTop, Erdos1148Prop n := by
  sorry

/--
The largest integer known which cannot be written this way is $6563$.
-/
@[category high_school, AMS 11]
theorem erdos_1148.lower_bound : ¬ Erdos1148Prop 6563 := by
```

**Review by mo271 — APPROVED** [review]
Thanks, looks good to me!

File: FormalConjectures/ErdosProblems/1148.lean [hunk 8]
```diff
@@ -0,0 +1,69 @@
...
+    (x ^ 2 : ℝ) ≤ n + 2 * Real.sqrt n ∧
+    (y ^ 2 : ℝ) ≤ n + 2 * Real.sqrt n ∧
+    (z ^ 2 : ℝ) ≤ n + 2 * Real.sqrt n
+
+/--
+[Va99] reports this is 'obvious' if we replace $\leq n$ with $\leq n+2\sqrt{n}$.
+-/
+@[category research solved, AMS 11]
+theorem erdos_1148.variants.weaker : ∀ n, erdos_1148_weaker_prop n := by
+  sorry
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1148.lean:67]: as fyi: AlphProof can prove this: 
```
@[category research solved, AMS 11]
theorem erdos_1148.variants.weaker : ∀ n, erdos_1148_weaker_prop n := by
  bound[1]
  apply Set.mem_setOf.2
  by_cases h:∃ A B C,n = A^2+B^2-C^2∧A^2≤n+2*.sqrt n∧B^2≤n+2*.sqrt n∧C^2≤n+2*.sqrt n
  · apply (h).imp fun and⟨y,A, B, _⟩=>⟨y,A, B,by repeat use .trans (mod_cast (by push_cast [by assumption])) ↑(add_le_add_left ↑(mul_le_mul_of_nonneg_left Real.nat_sqrt_le_real_sqrt (by. (norm_num))) _)⟩
  apply h.elim ⟨ (n + 1).sqrt, _⟩
  obtain ⟨c, _⟩| ⟨a, _⟩:=(n- (n + 1).sqrt^2).even_or_odd
  · obtain@rfl|R:=eq_or_ne c 0
    · cases(tsub_eq_zero_iff_le.1 (by valid)).eq_or_lt
      · exact ⟨0,0,by valid⟩
      · exact ⟨0,1,by_contra fun and=>absurd (n + 1).sqrt_le'<|absurd n.sqrt_pos ∘ fun and=> fun and=>h ⟨0,0,0,by valid⟩⟩
    rw[Nat.sub_eq_iff_eq_add (by valid)]at*
    obtain ⟨s, rfl⟩:=c.exists_eq_succ_of_ne_zero R
    contrapose! h
    use (n + 1).sqrt+1
    norm_num[←two_mul,add_sq, mul_add]at‹n = _›⊢
    have:=Nat.le_sqrt'.2 (by valid: (n + 1).sqrt^2≤n)
    have:= (n + 1).lt_succ_sqrt
    norm_num [←sq,add_sq] at this
    exact ⟨.sqrt (n + 1)- (s+1),.sqrt (n + 1)- (s+1)+1,eq_tsub_of_add_eq (by nlinarith[Nat.sub_add_cancel (by valid : s+1≤.sqrt (n + 1))]),by repeat use (by nlinarith[Nat.sub_add_cancel (by valid : s+1≤.sqrt (n + 1))])⟩
  · exact ⟨a+1,a,Nat.eq_sub_of_add_eq (by linarith[‹_›▸n.sub_add_cancel (by valid)]),by repeat use by nlinarith[‹_›▸n.sub_add_cancel (by valid), (n + 1).lt_succ_sqrt]⟩
```

This proof is too ugly/unmaintanable to be included here. Could be cleaned up, I suppose (or not..)

Comment (danielchin) [reply FormalConjectures/ErdosProblems/1148.lean:67]: I'm curious as to what proofs are considered short enough to be included in the formal-conjectures repo. It feels like most lean formalizations are rather complicated/messy (at least within the Erdos Problems context) and only fairly trivial ones satisfy the condition of "short enough".

I assume that for AlphaProof training data, you'll eventually want a repo of more complex proofs in lean. Is there a location for that yet?

Comment (mo271) [reply FormalConjectures/ErdosProblems/1148.lean:67]: You are right that most theorems/conjectures here require a proof that will be long and involved. 
We haven't quite figured out what is the best way to handle that. For now it is great to push to a branch in our repo (or make a pr, which will put the commit in our repo) and put the long proof there, using the new see #1894 for an example of that! This is a way of linking to proofs, and it is even possible to proof that fills in exactly this sorry. (This could also be done here, and we probably eventually will make a branch with all the `research solved` questions that AlphaProof can solve, which is many.
